US20010020104A1
50 g of 4′-methylbiphenyl-2-carbonitrile together with 2.5 g of 5% palladium on carbon and 125 ml of n-butanol are placed in a vessel and hydrogenated at 120° C. for 10 hours by passing hydrogen through the mixture. After filtering off the catalyst, the product solution is fractionated under reduced pressure to give 38.8 g (82%) of 2,4′-dimethylbiphenyl having a boiling point of 138-140° C. at 14 mbar.

reactant | 4′-methylbiphenyl-2-carbonitrile | 50 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H11N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
solvent | n-butanol | 125 ml | C(CCC)O | C4H10O
product | 2,4′-dimethylbiphenyl | 38.8 g, 82% | CC1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H14
